US07875636B2
To a solution of 5.7 g (41 mmol) (5-methoxypyridin-2-yl)methanol in 100 mL CHCl3 was added 15 g MnO2 and the mixture heated to reflux for 2 hours, filtered, and washed with boiling CHCl3. The filtrate was washed with brine, dried over MgSO4, and concentrated in vacuo to afford 5-methoxypyridine-2-carbaldehyde as a white solid. 1H NMR (400 MHz, CDCl3) δ 9.99 (s, 1H), 8.44 (d, J=2.4 Hz, 1H), 7.97 (d, J=8.4 Hz, 1H), 7.3 (dd, J=8.4, 2.4 Hz, 1H), 3.95 (s, 2H).

reactant | (5-methoxypyridin-2-yl)methanol | 41 mmol, 5.7 g | COC=1C=CC(=NC1)CO | C7H9NO2
solvent | CHCl3 | 100 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | MnO2 | 15 g | O=[Mn]=O
product | 5-methoxypyridine-2-carbaldehyde | COC=1C=CC(=NC1)C=O | C7H7NO2
